US06800651B2
4-(2-Benzyloxyphenoxy)aniline
4-(2-Benzyloxyphenoxy)nitrobenzene (2.57 g, 8 mmol) was dissolved in reagent grade ethanol (20 mL) and treated with concentrated aqueous hydrochloric acid (2.5 mL). The solution was heated to 55° C. under nitrogen, then cautiously treated with iron powder (3.1 g, 55 mmol) in portions with cooling needed after initial exotherm to 75° C. After addition was complete, stirring was continued at 50-60° C. for 45 minutes, then the mixture was cooled to room temperature and filtered through celite® (rinse filter cake with dichloromethane). The filtrate was concentrated in vacuo, the residue dissolved in dichloromethane and the solution washed with saturated aqueous sodium carbonate. The organic layer was separated and the aqueous layer extracted with dichloromethane. The combined organic solution was dried (sodium sulfate), concentrated in vacuo, and chromatographed on silica gel (eluted with dichloromethane, then 10% ethyl acetate/dichloromethane, then 20% ethyl acetate/dichloromethane) to afford the title compound (2.22 g, 95%) as a tan solid; mp 111-112.5° C. 1H NMR: 7.30 (m,4H), 7.20-7.30 (m,1H), 6.97 (m,2H), 6.80-6.90 (m,4H), 6.60-6.65 (m,2H), 5.12 (s,2H), 3.50 (br s, 2H).

reactant | 4-(2-Benzyloxyphenoxy)nitrobenzene | 8 mmol, 2.57 g | C(C1=CC=CC=C1)OC1=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1 | C19H15NO4
reactant | hydrochloric acid | 2.5 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | iron | 55 mmol, 3.1 g | [Fe] | Fe
product | 4-(2-Benzyloxyphenoxy)aniline | 2.22 g, 95% | C(C1=CC=CC=C1)OC1=C(OC2=CC=C(N)C=C2)C=CC=C1 | C19H17NO2
